US04402961
The operation is as in Example 1, but starting from 4.5 g of ethyl quinoline-3-carboxylate, 6 g of ethyl 3-[3-(N-benzoyl)piperidyl]propionate and 13 ml of a 20% suspension of potassium hydride in oil. 3 g of crude 1-(3-quinolyl)-3-(3-piperidyl)-1-propanone are obtained.

reactant | ethyl quinoline-3-carboxylate | 4.5 g | N1=CC(=CC2=CC=CC=C12)C(=O)OCC | C12H11NO2
reactant | potassium hydride | [H-].[K+]
product | 1-(3-quinolyl)-3-(3-piperidyl)-1-propanone | 3 g | N1=CC(=CC2=CC=CC=C12)C(CCC1CNCCC1)=O | C17H20N2O
